US04254108
4-Chloro-1,8-naphthalic anhydride (20.0 g, 0.086 mole; commercial material purified by crystallization from toluene) was suspended in an aqueous 1 N sodium hydroxide solution (95 ml) of glycine (3.8 g, 0.095 mole). The mixture was stirred and refluxed for one hr, after which time a clear solution had resulted. The mixture was rendered acidic with conc hydrochloric acid. The resulting precipitate was collected and dried. Crystallization of the precipitate from anhydrous ethanol afforded 18.5 g of 6-chloro-1,3-dioxo-1H-benz[de]isoquinoline-2(3H)-acetic acid, mp 260° C.; UV (MeOH) 235,339 and 352 nm, ε=41,310, 15,190 and 13,700, respectively; IR (CHCl3) 1725, 1705 and 1670 cm-1 ; NMR (DMSO-d6) δ4.6 (s, 2H), 6.0 (m, 1H), 7.9 (m, 2H), 8.45 (m, 3H); Anal. Calc'd.: C, 58.05%; H, 2.78%; N, 4.83%; Found: C, 58.16%; H, 2.74%; N, 4.69%.

reactant | 4-Chloro-1,8-naphthalic anhydride | 0.086 mole, 20.0 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Cl | C12H5ClO3
reactant | sodium hydroxide | 1 N, 95 ml | [OH-].[Na+]
reactant | glycine | 0.095 mole, 3.8 g | NCC(=O)O | C2H5NO2
reactant | hydrochloric acid | Cl | ClH
product | 6-chloro-1,3-dioxo-1H-benz[de]isoquinoline-2(3H)-acetic acid | 18.5 g | ClC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)CC(=O)O)=O | C14H8ClNO4
